US08372837B2
To a stirring solution of methyl 1-(4-cyano-3-fluorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carboxylate HCl (37.2 mg, 0.10 mmol) in NMP (3 mL) at room temperature under argon was added DIPEA (38.8 mg, 0.30 mmol) and 2-chloro-5-propylpyrimidine (23.5 mg, 0.15 mmol). The resulting reaction mixture was heated at 95° C. under argon overnight. 15 mL of EtOAc was added to the reaction mixture. The reaction mixture was washed with water (15 mL), and brine (15 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was directly purified by preparative HPLC (C18 column; 10-100% methanol in water without TFA) to give methyl 1-(4-cyano-3-fluorophenyl)-6-oxo-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)-1,6-dihydropyridazine-3-carboxylate (16 mg, white solid, 32%). 1H NMR (400 MHz, CDCl3) δ ppm 0.56-1.12 (m, 3H) 1.37-1.67 (m, 2H) 1.70-2.20 (m, 4H) 2.39 (q, J=7.47 Hz, 2H) 3.64-4.09 (m, 7H) 4.02-4.40 (m, 1H) 4.40-4.95 (m, 1H) 6.31 (s, 1H) 7.45-7.91 (m, 3H) 7.91-8.46 (m, 2H). MS (ESI) 493 (M+H).

reactant | methyl 1-(4-cyano-3-fluorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carboxylate HCl | 0.10 mmol, 37.2 mg | Cl.C(#N)C1=C(C=C(C=C1)N1N=C(C(=CC1=O)OC1CCNCC1)C(=O)OC)F
reactant | DIPEA | 0.30 mmol, 38.8 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-propylpyrimidine | 0.15 mmol, 23.5 mg | ClC1=NC=C(C=N1)CCC | C7H9ClN2
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | methyl 1-(4-cyano-3-fluorophenyl)-6-oxo-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)-1,6-dihydropyridazine-3-carboxylate | 16 mg, 32% | C(#N)C1=C(C=C(C=C1)N1N=C(C(=CC1=O)OC1CCN(CC1)C1=NC=C(C=N1)CCC)C(=O)OC)F | C25H25FN6O4
